US05824679
N-(Dimethyloxophosphinyl-methyl)-N-{3-methyl-5-[2-(pyridin-4-ylamino)-ethoxyl]-phenyl}-2-ethoxy-benzene-sulfonamide
was produced in a 54% yield analogously to example 5. Oil. MS (m/e)=518. For this 2-ethoxy-benzenesulfonyl chloride is used in step 5c) instead of 2-methoxy-benzenesulfonyl chloride and one obtained N-(3-cyanomethoxy-5-methyl-phenyl)-2-ethoxy-benzenesulfonamide in a 70% yield (Fp. 142° C.) which was reacted analogously to example 5d) to form N-(dimethyloxophosphinyl-methyl)-N-(3-cyanomethoxy-5-methyl-phenyl)-2-ethoxy-benzene-sulfonamide (46% yield, Fp. 139°-141° C.) and this was reacted analogously to example 5e) to form N-(dimethyloxophosphinyl-methyl)-N-[3-(2-amino-ethoxy)-5-methyl-phenyl]-2-ethoxy-benzenesulfonamide (58% yield, oil, MS (m/e)=440) which was reacted analogously to example 5f) to form a mixture of N-(dimethyloxophosphinylmethyl)-N-{3-[2-(3,5-dichloropyridazin-4-ylamino)-ethoxy]-5-methyl-phenyl}-2-ethoxy-benzenesulfonamide and N-(dimethyloxophosphinyl-methyl)-N-{3-[2-(3,4-dichloropyridazin-5-ylamino)-ethoxy]-5-methyl-phenyl}-2-ethoxy- benzenesulfonamide (55%, Fp. 114°-116° C.) from which the title compound was obtained analogously to example 5g) by catalytic hydrogenation.

reactant | N-(dimethyloxophosphinylmethyl)-N-{3-[2-(3,5-dichloropyridazin-4-ylamino)-ethoxy]-5-methyl-phenyl}-2-ethoxy-benzenesulfonamide | CC(N(S(=O)(=O)C1=C(C=CC=C1)OCC)C1=CC(=CC(=C1)C)OCCNC1=C(N=NC=C1Cl)Cl)(P(=O)=O)C | C24H27Cl2N4O6PS
reactant | N-(dimethyloxophosphinyl-methyl)-N-{3-[2-(3,4-dichloropyridazin-5-ylamino)-ethoxy]-5-methyl-phenyl}-2-ethoxy- benzenesulfonamide | CC(N(S(=O)(=O)C1=C(C=CC=C1)OCC)C1=CC(=CC(=C1)C)OCCNC=1C(=C(N=NC1)Cl)Cl)(P(=O)=O)C | C24H27Cl2N4O6PS
product | N-(Dimethyloxophosphinyl-methyl)-N-{3-methyl-5-[2-(pyridin-4-ylamino)-ethoxyl]-phenyl}-2-ethoxy-benzene-sulfonamide | CC(N(S(=O)(=O)C1=C(C=CC=C1)OCC)C1=CC(=CC(=C1)OCCNC1=CC=NC=C1)C)(P(=O)=O)C | C25H30N3O6PS
